US04880457
A solution of dimethyl oxosulphonium methylide was prepared under nitrogen from sodium hydride (0.1 mol) and powdered trimethyl oxosulphonium iodide (0.1 mol) in dry dimethyl sulphoxide (100 ml). A solution of 4,4'-difluorobenzophenone (0.08 mol) in dimethyl sulphoxide (40 ml) was added dropwise at room temperature and the solution heated at 50° for 2 hours. After cooling to room temperature the solution was extracted with diethyl ether (400 ml), washed with water (3×250 ml), and dried over anhydrous sodium sulphate. Removal of the solvent gave 1,1-bis-(4-fluorophenyl)-ethylene oxide (95%) as a colourless oil.

reactant | sodium hydride | 0.1 mol | [H-].[Na+]
reactant | trimethyl oxosulphonium iodide | 0.1 mol | [I-].C[S+](=O)(C)C
reactant | 4,4'-difluorobenzophenone | 0.08 mol | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | 1,1-bis-(4-fluorophenyl)-ethylene oxide | 95% | FC1=CC=C(C=C1)C1(CO1)C1=CC=C(C=C1)F | C14H10F2O
